US09216967B2
To a solution of 4-bromo-3-[(trifluoromethyl)oxy]phenol (257 mg, 1.0 mmol) in dry DMF (4 mL) potassium carbonate (276 mg, 2 mmol) and then 2-chloro-5-nitropyrimidine (319 mg, 2.0 mmol) were added and the reaction mixture was stirred for 2 hours at r.t. The reaction was quenched with water (1 mL), diluted with brine (5 mL) and extracted with ethyl acetate (2×15 mL). The organic layer was dried (Na2SO4), filtered and evaporated to give crude 2-({4-bromo-3-[(trifluoromethyl)oxy]phenyl}oxy)-5-nitropyrimidine. This crude was dissolved in THF/water (2:1) (6 mL) and Iron (279 mg, 5 mmol) and NH4Cl (267.5 mg, 5 mmol) were added and the reaction mixture was stirred overnight at r.t. The solid was filtered off and the solution was diluted with an aqueous saturated solution of NaHCO3 (5 mL) and extracted with ethyl acetate (2×20 mL). The organic layer was dried (Na2SO4), filtered and evaporated and the residue was purified by flash chromatography on silica gel (SNAP 25 g) eluting from 75:25 to 40:60 cyclohexane/ethyl acetate to afford the title compound (280 mg) as light yellow solid.

reactant | 4-bromo-3-[(trifluoromethyl)oxy]phenol | 1.0 mmol, 257 mg | BrC1=C(C=C(C=C1)O)OC(F)(F)F | C7H4BrF3O2
reactant | DMF | 2 mmol, 4 mL, 276 mg | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-nitropyrimidine | 2.0 mmol, 319 mg | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
product | 2-({4-bromo-3-[(trifluoromethyl)oxy]phenyl}oxy)-5-nitropyrimidine | BrC1=C(C=C(C=C1)OC1=NC=C(C=N1)[N+](=O)[O-])OC(F)(F)F | C11H5BrF3N3O4
